US04441496
99/1 p-Dioxanone/2,5-Morpholinedione Copolymer
p-Dioxanone (87.8 g, 0.861 moles), 2,5-morpholinedione (1.0 g, 0.0087 moles), 1-dodecanol (0.27 g, 0.00145 moles) and a catalytic amount of stannous octoate (0.176 ml of 0.33 M toluene solution, 0.000058 moles) are heated and magnetically mixed in a flame and vacuum dried, sealed glass ampoule according to the following temperature/time scheme:

reactant | p-Dioxanone | 0.861 moles, 87.8 g | O1C(COCC1)=O | C4H6O3
reactant | 2,5-morpholinedione | 0.0087 moles, 1.0 g | N1CC(OCC1=O)=O | C4H5NO3
reactant | 1-dodecanol | 0.00145 moles, 0.27 g | C(CCCCCCCCCCC)O | C12H26O
reactant | stannous octoate | 0.000058 moles, 0.33 M, 0.176 ml | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | p-Dioxanone 2,5-Morpholinedione | O1C(COCC1)=O.N1CC(OCC1=O)=O | InChI=1S/C4H5NO3.C4H6O3/c6-3-2-8-4(7)1-5-3;5-4-3-6-1-2-7-4/h1-2H2,(H,5,6);1-3H2
